US08110688B2
Synthesis of 2-(2-hydroxy-6-methoxyphenyl)ethanol
7.18 g (189 mmol) of sodium borohydride was added to a solution of 10.76 g (65.5 mmol) of 4-methoxy-3H-benzofuran-2-one in 150 mL of ethyleneglycol dimethyl ether and stirred. While cooled on an ice-water bath, a solution of 5.25 mL (9.66 g, 94.5 mmol) of concentrated sulfuric acid in 21 mL of ethyleneglycol dimethyl ether was added dropwise thereto over 30 minutes. This mixture was heated and stirred on a 50° C. water bath for 49 minutes and then, while being stirred on an ice-water bath, 32 mL (25.3 g, 790 mmol) of methanol was added dropwise thereto for 6 minutes. This mixture was heated and stirred on a 50° C. water bath for 53 minutes, allowed to stand at room temperature overnight, 300 mL of isopropyl acetate and 200 mL of water were added therein and then the mixture was stirred for 5 minutes, transferred into a separatory funnel and settled. The aqueous layer was separated and discarded and after the organic layer was washed with 100 mL of water twice, the solvent was evaporated. The residue was crystallized from ethyl acetate-hexane and the obtained crystals were dried in vacuo at 30° C. and 3.12 g of the title compound was obtained.

reactant | sodium borohydride | 189 mmol, 7.18 g | [BH4-].[Na+]
reactant | 4-methoxy-3H-benzofuran-2-one | 65.5 mmol, 10.76 g | COC1=CC=CC2=C1CC(O2)=O | C9H8O3
reactant | sulfuric acid | 94.5 mmol, 5.25 mL, 9.66 g | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 790 mmol, 32 mL, 25.3 g | CO | CH4O
reactant | isopropyl acetate | 300 mL | C(C)(=O)OC(C)C | C5H10O2
solvent | ethyleneglycol dimethyl ether | 150 mL | COCCOC | C4H10O2
solvent | ethyleneglycol dimethyl ether | 21 mL | COCCOC | C4H10O2
solvent | water | 200 mL | O | H2O
product | 2-(2-hydroxy-6-methoxyphenyl)ethanol | 3.12 g | OC1=C(C(=CC=C1)OC)CCO | C9H12O3
